US08026367B2
To a solution of (1R)-1-[(3-benzoyl)phenyl]ethylamine hydrochloride (0.52 g, 2 mmol) in toluene (15 mL), conc. H2SO4 (3 mmol) and sodium thiocyanate (0.18 g, 2.2 mmol) were added and the resulting mixture was left stirring at room temperature for 30 min. The formation of a white precipitate was observed: then the mixture was refluxed for 4 h and left stirring at room temperature overnight. The organic phase was washed with H2O (3×mL), dried over Na2SO4, filtered and evaporated under vacuum to give the N-[(1R)-1-(3-benzoylphenyl)ethyl]thiourea a dark red oil (0.53 g) pure enough (GC-Ms analysis) to be used without any further purification.

reactant | (1R)-1-[(3-benzoyl)phenyl]ethylamine hydrochloride | 2 mmol, 0.52 g | Cl.C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)[C@@H](C)N
reactant | H2SO4 | 3 mmol | OS(=O)(=O)O | H2O4S
reactant | sodium thiocyanate | 2.2 mmol, 0.18 g | [S-]C#N.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(1R)-1-(3-benzoylphenyl)ethyl]thiourea | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)[C@@H](C)NC(=S)N | C16H16N2OS
